US07176241B2
A solution of 3-hydroxy tetrahydro thiophene-3,4-dicarboxylicacid-4-methylester (2.87 g, 14.9 mmol) in acetic anhydride (20 ml) was refluxed for 4 h. The reaction mixture was filtered and concentrated under reduce pressure. The solid residue was triturated with acetone, dried with Na2SO4 and concentrated in vacuo. The solid product was recrystallized from benzene to give 2,5-dihydrothiophene-3,4-dicarboxylic anhydride in 26% yield.

reactant | 3-hydroxy tetrahydro thiophene-3,4-dicarboxylicacid-4-methylester | 14.9 mmol, 2.87 g | COC(=O)C1C(CSC1)(C(=O)O)O | C7H10O5S
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,5-dihydrothiophene-3,4-dicarboxylic anhydride | 26% yield | S1CC2=C(C1)C(=O)OC2=O | C6H4O3S
